US07906516B2
4.00 g (12.3 mmol) of tert-butyl (R)-2-(4-chlorophenylcarbamoyl)pyrrolidine-1-carboxylate are dissolved in 20 ml of 4N HCl in dioxane and left at room temperature for 2 hours. The reaction mixture is evaporated and dried, giving (R)-2-(4-chlorophenylcarbamoyl)pyrrolidinium chloride as a slightly brownish solid; ESI 225.

reactant | tert-butyl (R)-2-(4-chlorophenylcarbamoyl)pyrrolidine-1-carboxylate | 12.3 mmol, 4.00 g | ClC1=CC=C(C=C1)NC(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C16H21ClN2O3
solvent | HCl | 4N, 20 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-(4-chlorophenylcarbamoyl)pyrrolidinium chloride | [Cl-].ClC1=CC=C(C=C1)NC(=O)[C@@H]1[NH2+]CCC1 | InChI=1S/C11H13ClN2O.ClH/c12-8-3-5-9(6-4-8)14-11(15)10-2-1-7-13-10;/h3-6,10,13H,1-2,7H2,(H,14,15);1H/t10-;/m1./s1
